US08604191B2
(R)-5-((E)-2-Pyrrolidin-3-ylvinyl)pyrimidine mono-(1S)-10-camphorsulfonate
(1S)-(+)-10-Camphorsulfonic acid (1.329 g, 5.72 mmol) was added as a solid to a stirring, warm solution of (R)-5-((E)-2-pyrrolidin-3-ylvinyl)pyrimidine free base (1.00 g) in 2-propanol (23 mL, 5.70 mmol) in a round-bottomed flask. Upon cooling to ambient temperature, there was no precipitation of solids. The solution was allowed to stand overnight. Gelatinous material containing white solids was observed. After stirring two days, the mixture was diluted with 2-propanol (10.5 mL) because stirring this jelly-like white mass was difficult. After overnight stirring, the resulting white powder was filtered on a Büchner funnel, washed with 2-propanol (5 mL) (NOTE: The solids appeared to have some solubility in 2-propanol) and dried in a vacuum oven (air bleed) at 50° C. for 6 h to give 1.47 g (63.2%) of a white powder, mp 172-173° C. 1H NMR (DMSO-d6) confirms the 1:1 salt stoichiometry. After standing seven days, a second crop of light-beige needles was observed in the crystallization liquors. This material was filtered, washed with 2-propanol (10 mL) and dried in a vacuum oven (air bleed) at 50° C. for 21 h to give 0.245 g of light-beige needles, mp 173-174° C. 1H NMR (DMSO-d6): δ 9.03 (s, 1H), 8.87 (s, 2H), 6.57 (m, 2H), 3.41 (dd, 1H) 3.33 (m, 1H, partially masked by H2O), 3.21 (m, 1H), 3.10 (m, 1H), 2.98 (dd, 1H), 2.89 (d, 1H, —CH2— of acid moiety, indicating a mono-salt stoichiometry), 2.64 (m, 1H), 2.41 (d, 1H, —CH2— of acid moiety, indicating a mono-salt stoichiometry), 2.25 (t, 0.5 H), 2.20 (t 0.5 H), 2.15 (m, 1H), 1.93 (t, 1H), 1.82 (m, 3H), 1.28 (m, 2H, —CH2— of acid moiety, indicating a mono-salt stoichiometry), 1.03 (s, 3H, —CH3 of acid moiety, indicating a mono-salt stoichiometry), 0.73 (s, 3H, —CH3 of acid moiety, indicating a mono-salt stoichiometry).

reactant | (1S)-(+)-10-Camphorsulfonic acid | 5.72 mmol, 1.329 g | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | (R)-5-((E)-2-pyrrolidin-3-ylvinyl)pyrimidine | 1.00 g | N1C[C@H](CC1)/C=C/C=1C=NC=NC1 | C10H13N3
reactant | 2-propanol | 5.70 mmol, 23 mL | CC(C)O | C3H8O
product | (R)-5-((E)-2-Pyrrolidin-3-ylvinyl)pyrimidine mono-(1S)-10-camphorsulfonate | 1.47 g, 63.2% | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O.N2C[C@H](CC2)/C=C/C=2C=NC=NC2 | InChI=1S/C10H13N3.C10H16O4S/c1(9-3-4-11-5-9)2-10-6-12-8-13-7-10;1-9(2)7-3-4-10(9,8(11)5-7)6-15(12,13)14/h1-2,6-9,11H,3-5H2;7H,3-6H2,1-2H3,(H,12,13,14)/b2-1+;/t9-;7?,10-/m01/s1
